US07119113B2
3,6-Difluoro-9H-xanthene-9-carboxylic Acid (4-trifluoromethyl-oxazol-2-yl)-amide
The title compound, white solid, m.p. 265° C. and MS: m/e=397.2 (M+H+), is prepared in accordance with the general method of example 3c from 4-trifluoromethyl-oxazol-2-ylamine and 3,6-difluoro-9H-xanthene-9-carboxylic acid (CAS:[188028-37-7]).

reactant | 4-trifluoromethyl-oxazol-2-ylamine | FC(C=1N=C(OC1)N)(F)F | C4H3F3N2O
reactant | 3,6-difluoro-9H-xanthene-9-carboxylic acid | FC=1C=CC=2C(C3=CC=C(C=C3OC2C1)F)C(=O)O | C14H8F2O3
product | 3,6-Difluoro-9H-xanthene-9-carboxylic Acid (4-trifluoromethyl-oxazol-2-yl)-amide | FC(C=1N=C(OC1)NC(=O)C1C2=CC=C(C=C2OC=2C=C(C=CC12)F)F)(F)F | C18H9F5N2O3
